US09108969B2
Step A: Preparation of Isopropyl 4-isopropoxy-3-(trifluoromethyl)benzoate
To a mixture of 4-hydroxy-3-(trifluoromethyl)benzoic acid (14.55 mmol) and cesium carbonate (43.7 mmol) in DMA (60 mL) was added 2-bromopropane (36.4 mmol). The reaction was stirred at 80° C. for 16 h. The mixture was filtered through celite and concentrated under vacuum. The residue was dissolved in EtOAc and washed with water, then brine, then dried over MgSO4, and filtered. The solvent was removed under vacuum to give the title compound as a light yellow oil (13.1 mmol). 1H NMR (400 MHz, CDCl3) δ ppm 1.36 (d, J=6.32 Hz, 6H), 1.39 (d, J=6.06 Hz, 6H), 4.72 (septet, J=6.06 Hz, 1H), 5.24 (septet, J=6.25 Hz, 1H), 7.00 (d, J=8.84 Hz, 1H), 7.26 (s, OH), 8.15 (dd, J=8.72, 2.15 Hz, 1H), 8.23 (d, J=2.15 Hz, 1H).

reactant | 4-hydroxy-3-(trifluoromethyl)benzoic acid | 14.55 mmol | OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H5F3O3
reactant | cesium carbonate | 43.7 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromopropane | 36.4 mmol | BrC(C)C | C3H7Br
reactant | DMA | 60 mL | CC(=O)N(C)C | C4H9NO
product | Isopropyl 4-isopropoxy-3-(trifluoromethyl)benzoate | 13.1 mmol | C(C)(C)OC1=C(C=C(C(=O)OC(C)C)C=C1)C(F)(F)F | C14H17F3O3
